US07579368B2
d) N-(2-Cyano-ethyl)-N-methyl-2-piperazin-1-yl-acetamide
The title compound was prepared from 1-tert-butyloxycarbonyl-piperazine, chloroacetylchloride and N-(2-cyanoethyl)-N-methylamine in an analogous manner as described in example 21.

reactant | 1-tert-butyloxycarbonyl-piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | chloroacetylchloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(2-cyanoethyl)-N-methylamine | C(#N)CCNC | C4H8N2
product | N-(2-Cyano-ethyl)-N-methyl-2-piperazin-1-yl-acetamide | C(#N)CCN(C(CN1CCNCC1)=O)C | C10H18N4O
